US07504417B2
Oxalyl chloride (3.15 ml) was dissolved in 30 ml of dichloromethane, a solution of 3.20 ml of dimethyl sulfoxide in 6 ml of dichloromethane was added thereto at −70° C., the mixture was stirred for 15 minutes, a solution of 2.93 g of (1-isopropyl-4-piperidyl)methanol in 15 ml of dichloromethane was added thereto at −70° C. and the mixture was stirred for 1 hour. After 12.5 ml of triethylamine were added at −70° C., the mixture was raised to room temperature, then water and a saturated aqueous solution of sodium hydrogen carbonate were added and the mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo and ethyl acetate was added to the resulting residue. After removing the insoluble matter by filtration, the solvent was evaporated in vacuo to give 1.15 g of 1-isopropylpiperidine-4-carbaldehyde. This compound was used for the next reaction without purification.

reactant | Oxalyl chloride | 3.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 3.20 ml | CS(=O)C | C2H6OS
reactant | (1-isopropyl-4-piperidyl)methanol | 2.93 g | C(C)(C)N1CCC(CC1)CO | C9H19NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 12.5 ml | C(C)N(CC)CC | C6H15N
product | 1-isopropylpiperidine-4-carbaldehyde | 1.15 g | C(C)(C)N1CCC(CC1)C=O | C9H17NO
